US04835284
A mixture of methanol 60 ml, water 30 ml, 97% sodium hydroxide, 12.4 g and 2-nitro-2'-hydroxy-5'-methyl azobenzene 12.9 g was heated and stirred at 45°~50° C. 9-fluorenone 1.0 g and then glucose 5.5 g were added to the resultant mixture over 30 minutes while stirring. The mixture was further stirred at 75° C. (boiling point) for 7 hours. As this result, the azobenzene disappeared to produce 2-(2'-hydroxy-5'-methylphenyl)benzotriazole-N-oxide, thus the reaction of Process (b) being completed.

reactant | 2-nitro-2'-hydroxy-5'-methyl azobenzene | 12.9 g | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C=CC(=C1)C)O | C13H11N3O3
reactant | 9-fluorenone | 1.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
reactant | glucose | 5.5 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | azobenzene | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
solvent | water | 30 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | 2-(2'-hydroxy-5'-methylphenyl)benzotriazole-N-oxide | OC1=C(C=C(C=C1)C)N1N=C2C(=[N+]1[O-])C=CC=C2 | C13H11N3O2
